US04668838
Chromium (IV) tetra-tertiary-butoxide is prepared as follows: 0.5 cc. (2.72 millimoles) of di-tert-butylperoxide is added to 10 cc. of distilled deoxygenated toluene. 0.19 gram (0.91 millimoles) of bis(benzene) chromium is then added, and the mixture is heated to about 90° C. for about 23 hours. The mixture is then stripped of volatiles under vacuum to give a green solid. The green solid is sublimed under reduced pressure to give the product as a low melting blue solid.

reactant | di-tert-butylperoxide | 2.72 millimoles | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | bis(benzene) chromium | 0.91 millimoles, 0.19 gram | [Cr].C1=CC=CC=C1.C1=CC=CC=C1
product | Chromium (IV) tetra-tertiary-butoxide | CC(C)([O-])C.CC(C)([O-])C.CC(C)([O-])C.CC(C)([O-])C.[Cr+4] | InChI=1S/4C4H9O.Cr/c4*1-4(2,3)5;/h4*1-3H3;/q4*-1;+4
